US03954764
17.8 G. of 3-methoxy-8-(methylthio)-dibenzo[b,f]thiepin-10(11H)-one is suspended in 150 ml. of ethanol and reacted with 38 g. of sodium borohydride. The reaction mixture is stirred for 90 minutes, and subsequently treated with water and extracted with ether. The organic phase is washed with water, dried over magnesium sulfate and evaporated, whereby there is obtained 10,11-dihydro-3-methoxy-8-(methylthio)-dibenzo[d,f]thiepin-10-ol having a melting point of 122°-124°.

reactant | 3-methoxy-8-(methylthio)-dibenzo[b,f]thiepin-10(11H)-one | COC=1C=CC2=C(SC3=C(C(C2)=O)C=C(C=C3)SC)C1 | C16H14O2S2
reactant | ethanol | C(C)O | C2H6O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | water | O | H2O
product | 10,11-dihydro-3-methoxy-8-(methylthio)-dibenzo[d,f]thiepin-10-ol | COC1=CC2=C(C3=C(C=CS2)C(=CC(C3)O)SC)C=C1 | C16H16O2S2
